US09421209B2
Intermediate 88: 3-(3,4-dimethoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine
To a solution of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (1.00 g, 3.83 mmoles) in DMF (10 ml), ethanol (5 ml) and water (5 ml), 3,4-dimethoxyphenyl boronic acid (1.04 g, 5.746 mmoles) and sodium carbonate (2.03 g, 19.15 mmoles) were added and the system is degassed for 30 min. Tetrakis triphenylphosphine Palladium (0.872 g, 0.754 mmoles) was added under nitrogen atmosphere and heated to 80° C. After 12 h, the reaction mixture was celite filtered, concentrated and extracted with ethyl acetate. The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The crude product was purified by column chromatography with methanol:dichloromethane to afford the title compound as yellow solid (0.220 g, 21% yield). 1H-NMR (δ ppm, DMSO-d6, 400 MHz): δ 13.46 (s, 1H), 8.19 (s, 1H), 7.20 (s, 1H), 7.19 (d, J=9.3 Hz, 1H), 7.11 (d, J=8.1 Hz 1H), 3.81 (s, 6H).

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 3.83 mmoles, 1.00 g | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | 3,4-dimethoxyphenyl boronic acid | 5.746 mmoles, 1.04 g | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | sodium carbonate | 19.15 mmoles, 2.03 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 3-(3,4-dimethoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.220 g, 21% yield | COC=1C=C(C=CC1OC)C1=NNC2=NC=NC(=C21)N | C13H13N5O2
